US06875761B2
(290-1) 2-Methyl-3-thiophenecarboxylic acid
To a solution of N-methyl-2-methylthiophene-3-carboxamide (36.0 g) in THF (500 ml) was added dropwise 2.5M n-BuLi/THF solution (200 ml) at −70° C. The reaction solution was stirred at −70° C. for 2 hr. followed by the addition of anisonitrile (31.0 g) at once. After the dry ice/acetone bath was removed, the reaction mixture was back to room temperature. Three hours later, an aqueous solution of saturated ammonium chloride and ether were added thereto, and then the mixture was further stirred for 1 hr. The resulting white precipitates were collected by filtration, washed with water, ether and n-hexane in this order, and then dried, to give the title compound (17.9 g, yield; 30%).

reactant | N-methyl-2-methylthiophene-3-carboxamide | 36.0 g | CNC(=O)C1=C(SC=C1)C | C7H9NOS
reactant | n-BuLi THF | 2.5M, 200 ml | [Li]CCCC.C1CCOC1
reactant | anisonitrile | 31.0 g | C(C1=CC=C(C=C1)OC)#N | C8H7NO
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-Methyl-3-thiophenecarboxylic acid | 17.9 g, yield; 30% | CC=1SC=CC1C(=O)O | C6H6O2S
